US05420275
3,4-Diethoxycarbonyl-6-methyl-5-nitro-2-pyridone
In 13 ml of acetic anhydride was suspended 5.0 g of 3,4-diethyoxycarbonyl-6-methyl-2-pyridone, and the suspension was cooled to -10° C., whereto 1.22 ml (2.1 eq.) of fuming nitric acid was added dropwise over 30 minutes. The mixture was stirred for 30 minutes. After 40 ml of water was added, the mixture was stirred overnight at room temperature. The resulting crystals were collected by filtration and dried.

reactant | 3,4-diethyoxycarbonyl-6-methyl-2-pyridone | 5.0 g | C(C)OC(=O)C=1C(NC(=CC1C(=O)OCC)C)=O | C12H15NO5
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | water | 40 ml | O | H2O
solvent | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-Diethoxycarbonyl-6-methyl-5-nitro-2-pyridone | C(C)OC(=O)C=1C(NC(=C(C1C(=O)OCC)[N+](=O)[O-])C)=O | C12H14N2O7
